US05075319
Ethyl 1-cyclopropyl-6-fluoro-7-[2-(hydroxymethyl)-6-methyl-4-pyridinyl]-1,4-dihydro-4-oxo-3-quinolinecarboxylate hydrochloride (6.68 g) in 40 ml thionyl chloride was heated at reflux for two hours. The excess thionyl chloride was removed in vacuo and by repeatedly adding ethanol and concentrating. The residue was crystallized from ethanol to give 5.50 g ethyl 1-cyclopropyl-7-[2-(chloromethyl)-6-methyl-4-pyridinyl]-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate as its hydrochloride salt.

reactant | Ethyl 1-cyclopropyl-6-fluoro-7-[2-(hydroxymethyl)-6-methyl-4-pyridinyl]-1,4-dihydro-4-oxo-3-quinolinecarboxylate hydrochloride | 6.68 g | Cl.C1(CC1)N1C=C(C(C2=CC(=C(C=C12)C1=CC(=NC(=C1)C)CO)F)=O)C(=O)OCC
solvent | thionyl chloride | 40 ml | S(=O)(Cl)Cl | Cl2OS
product | ethyl 1-cyclopropyl-7-[2-(chloromethyl)-6-methyl-4-pyridinyl]-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate | 5.50 g | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)C1=CC(=NC(=C1)C)CCl)F)=O)C(=O)OCC | C22H20ClFN2O3
